US04925849
A solution of methyliodide (0.84 g) in N,N-dimethylformamide (2 ml) was added dropwise to a stirred mixture of 1-[3-{2-(3-aminophenyl)pyrazolo[1,5-a]pyridin-3-yl}acryloyl]-2-ethylpiperidine (trans isomer) (1.50 g) and powdered potassium carbonate (0.28 g) in N,N-dimethylformamide (10 ml) at room temperature. After being stirred at room temperature for 2 hours and 50 minutes, the reaction mixture was poured into water and extracted with ethyl acetate. The extract was washed with water and saturated sodium chloride aqueous solution, dried over magnesium sulfate and evaporated in vacuo. The residue was chromatographed on silica gel (36 g) with a mixture of methylene chloride and acetonitrile (5: 1) as an eluent. The fractions containing major product were combined and evaporated in vacuo to give crystals of 1-[3-{2- (3-methylaminophenyl)pyrazolo[1,5-a]pyridin-3-yl}acryloyl]-2-ethylpiperidine (trans isomer) (0.21 g).

reactant | methyliodide | 0.84 g | CI | CH3I
reactant | 1-[3-{2-(3-aminophenyl)pyrazolo[1,5-a]pyridin-3-yl}acryloyl]-2-ethylpiperidine | 1.50 g | NC=1C=C(C=CC1)C1=NN2C(C=CC=C2)=C1C=CC(=O)N1C(CCCC1)CC | C23H26N4O
reactant | potassium carbonate | 0.28 g | C([O-])([O-])=O.[K+].[K+]
reactant | water | O | H2O
solvent | N,N-dimethylformamide | 2 ml | CN(C=O)C | C3H7NO
solvent | N,N-dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
product | 1-[3-{2- (3-methylaminophenyl)pyrazolo[1,5-a]pyridin-3-yl}acryloyl]-2-ethylpiperidine | 0.21 g | CNC=1C=C(C=CC1)C1=NN2C(C=CC=C2)=C1C=CC(=O)N1C(CCCC1)CC | C24H28N4O
